US07939528B2
{4-[(3,4-diaminophenyl)oxy]phenyl}methanol (3.21 g of crude material) was dissolved in 20 ml THF and 10 ml of formic acid. The reaction was heated in a 100 degree Centigrade oil bath for approximately 22 hours. The reaction was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed 5 times with saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in 30 ml of THF and 10 ml of 10% aqueous LiOH and heated at 100 degrees Centigrade for 30 minutes. The reaction was diluted with water and ethyl acetate. The organic layer was washed with brine three times, dried over MgSO4, and concentrated under reduced pressure onto basic alumina. The compound was purified by silica gel column chromatography (100% dichloromethane to 10% (2M NH3 in methanol) in dichloromethane gradient) to give 1.26 g of [4-(1H-benzimidazol-5-yloxy)phenyl]methanol.

reactant | {4-[(3,4-diaminophenyl)oxy]phenyl}methanol | 3.21 g | NC=1C=C(C=CC1N)OC1=CC=C(C=C1)CO | C13H14N2O2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | [4-(1H-benzimidazol-5-yloxy)phenyl]methanol | 1.26 g | N1C=NC2=C1C=CC(=C2)OC2=CC=C(C=C2)CO | C14H12N2O2
